US05194617
0.29 ml of a hexane solution of 0.48 mmols of n-butyl lithium was added to a solution of 218 mg (0.48 mmols) of octyltriphenylphosphonium bromide in 3 ml of tetrahydrofuran and stirred at room temperature for 5 minutes. This solution was cooled to -78° C., after which 1.43 g (8 mmols) of hexamethylphosphorus triamide was added and stirred for 5 minutes, followed by further addition of 2 ml of a tetrahydrofuran solution of 98.8 mg (0.40 mmols) of 2-formyl-3-methyl-4-acetoxy-6-fluoroquinoline and stirring at -78° C. for 15 minutes and -42° C. for 30 minutes. The reaction solution was added to 20 ml of water and extracted with ethyl acetate, followed by washing with a saturated sodium chloride aqueous solution and drying with anhydrous sodium sulfate. After removal of the solvent by distillation under reduced pressure, the residue was purified by silica gel column chromatography (solvent n-hexane ethyl acetate=30:1 ) to obtain 14 mg (yield 10 %) of 2-(trans-1-nonenyl)-3-methyl-4-acetoxy-6-fluoroquinoline.

reactant | n-butyl lithium | 0.48 mmols | C(CCC)[Li]
reactant | octyltriphenylphosphonium bromide | 0.48 mmols, 218 mg | [Br-].C(CCCCCCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | hexamethylphosphorus triamide | 8 mmols, 1.43 g | CN(C)P(N(C)C)N(C)C | C6H18N3P
reactant | 2-formyl-3-methyl-4-acetoxy-6-fluoroquinoline | 0.40 mmols, 98.8 mg | C(=O)C1=NC2=CC=C(C=C2C(=C1C)OC(C)=O)F | C13H10FNO3
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | water | 20 ml | O | H2O
solvent | hexane | 0.29 ml | CCCCCC | C6H14
product | 2-(trans-1-nonenyl)-3-methyl-4-acetoxy-6-fluoroquinoline | 14 mg, yield 10 % | C(=C\CCCCCCC)/C1=NC2=CC=C(C=C2C(=C1C)OC(C)=O)F | C21H26FNO2
